US08426447B2
A 2-5 ml microwave vial was charged with (S)-2′-bromo-7′-(pyridin-3-yl)-5H-spiro[oxazole-4,9′-xanthen]-2-amine (96 mg, 0.235 mmol), potassium phosphate (150 mg, 0.705 mmol), 2-(4,5-dihydrofuran-2-yl)-4,4,5,5-tetramethyl-1,3,2-dioxaborolane (92 mg, 0.470 mmol) and AmPhos (16.65 mg, 0.024 mmol). 1,4-Dioxane (1176 μL) and water (392 μL) were added and the vial was sealed and heated in microwave reactor for 1 hr at 100° C. The mixture was diluted with ethyl acetate, filtered through celite, and concentrated on 2 g of silica gel. Purification by flash chromatography on 12 g rediSep column using 5-50% gradient of DCM/MeOH/NH4OH (90:10:1) in DCM provided (S)-1-(2-amino-2′-(pyridin-3-yl)-5H-spiro[oxazole-4,9′-xanthene]-7′-yl)-4-hydroxybutan-1-one as an off-white solid.

reactant | (S)-2′-bromo-7′-(pyridin-3-yl)-5H-spiro[oxazole-4,9′-xanthen]-2-amine | 0.235 mmol, 96 mg | BrC1=CC=2[C@]3(C4=CC(=CC=C4OC2C=C1)C=1C=NC=CC1)N=C(OC3)N | C20H14BrN3O2
reactant | potassium phosphate | 0.705 mmol, 150 mg | P(=O)([O-])([O-])[O-].[K+].[K+].[K+]
reactant | 2-(4,5-dihydrofuran-2-yl)-4,4,5,5-tetramethyl-1,3,2-dioxaborolane | 0.470 mmol, 92 mg | O1C(=CCC1)B1OC(C(O1)(C)C)(C)C | C10H17BO3
reactant | AmPhos | 0.024 mmol, 16.65 mg | CC(CC1=CC=CC=C1)N.OP(=O)(O)O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | water | 392 μL | O | H2O
solvent | 1,4-Dioxane | 1176 μL | O1CCOCC1 | C4H8O2
product | (S)-1-(2-amino-2′-(pyridin-3-yl)-5H-spiro[oxazole-4,9′-xanthene]-7′-yl)-4-hydroxybutan-1-one | NC=1OC[C@]2(C3=CC(=CC=C3OC=3C=CC(=CC23)C=2C=NC=CC2)C(CCCO)=O)N1 | C24H21N3O4
